US04255331
10 g of sulfonic acid resin (Amberlite I R120, marketed by Rohm and Haas Co.) was dehydrated by azeotropic destillation with benzene. The dry resin was suspended in 50 ml isopropenylacetate and 10 g 9β,11β-epoxy-21-acetoxy-17-hydroxy-pregna-1,4-diene-3,20-dione were added. The mixture was heated under reflux for 5 hours, cooled and filtered an the filtrate was evaporated to dryness. The residue which crystallized from methanol (0,5% pyridine) gave in high yield (9,5 grams) 3,21-diacetoxy-17-hydroxy-9β,11β-epoxy-pregna-1,3,5-triene-20-one. Melting point: 194° C., λmax 310 nm (ε5500)⟦alpha⟧sub.D in chloroform -199° C. (c=1% chloroform), νmax (cm-1) (K Br) 3450; 1765; 1740; 1725; 1655; 1625; 1590.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 9β,11β-epoxy-21-acetoxy-17-hydroxy-pregna-1,4-diene-3,20-dione | 10 g | O1[C@]23[C@]4(C=CC(C=C4CC[C@H]2[C@@H]2CC[C@](C(COC(C)=O)=O)([C@]2(C[C@@H]31)C)O)=O)C | C23H28O6
reactant | isopropenylacetate | 50 ml | C(=C)(C)CC(=O)[O-]
product | 3,21-diacetoxy-17-hydroxy-9β,11β-epoxy-pregna-1,3,5-triene-20-one | 9,5 grams | C(C)(=O)OC1=CC2=CC[C@H]3[C@@H]4CC[C@](C(COC(C)=O)=O)([C@]4(C[C@H]4[C@]3([C@]2(C=C1)C)O4)C)O | C25H30O7
